* D:\IEP-E\Exercise 4\4.asc
R N002 N001 47
V0 N001 0 0
D1 N002 0 1N5817
.model D D
.lib C:\Users\Ender\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V0 0 50 0.1
.backanno
.end
